### PR TITLE
DHS pass over the induction chapter

### PR DESCRIPTION
**Pull request by dsainati1**
Formatting and writing improvements

### CODE REVIEW

File: LF/Induction.lean [hunk 1]
```diff
@@ -155,19 +121,16 @@ theorem review1 : (true || false) = true := by rfl
 What about the next one?
 
 ```display
-    theorem review2 : ∀ b, (true || b) = true
+theorem review2 b : (true || b) = true
```
Comment (berberman) [inline LF/Induction.lean]:
```suggestion
theorem review2 (b : Bool) : (true || b) = true
```

File: LF/Induction.lean [hunk 2]
```diff
@@ -1312,33 +1186,13 @@ def natToBin (n : Nat) : Bin := solution!(
...
-
-in an exercise that it will turn into
-  -- FILL IN HERE
-in both student version of the Lean files and the generated HTML.
-
 ```lean
+-- SOLUTION
 theorem natToBin_zero : natToBin zero = .z := solution!(by rfl)
 theorem natToBin_succ m : natToBin (succ m) = incr (natToBin m) := solution!(by rfl)
+-- END SOLUTION
```
Comment (berberman) [inline LF/Induction.lean:1324]: Should we drop `solution!` in SOLUTION block?
```suggestion
-- SOLUTION
theorem natToBin_zero : natToBin zero = .z := by rfl
theorem natToBin_succ m : natToBin (succ m) = incr (natToBin m) := by rfl
-- END SOLUTION
```

File: LF/Induction.lean [hunk 3]
```diff
@@ -1437,29 +1369,26 @@ def doubleBin (b : Bin) : Bin := solution!(
   | _  => .b0 b)
 ```
 
-:::dev "Daniel Sainati (dsainati1)" NOW
-```
-How to hide these theorem statements so that students can get practice writing them?
-```
-:::
+Fill in the characterizing lemmas for this definition below:
```
Comment (berberman) [inline LF/Induction.lean:1390]: This seems to be the first time we use the word "characterizing lemma". Should we explain it a bit?

Comment (dsainati1) [reply LF/Induction.lean:1390]: We use this terminology in Basics, I believe.

Comment (berberman) [reply LF/Induction.lean:1390]: Yeah, but we called them "simplification lemma", instead of "characterizing lemma".

Comment (dsainati1) [reply LF/Induction.lean:1390]: We also use the term `characterizing theorem` here:

https://github.com/plclub/sf-in-lean/blob/7fddc00221d7362ce269a9be3563b1e0be370bb6/LF/Basics.lean#L1626-L1627

Do you think this is sufficiently similar?

Comment (berberman) [reply LF/Induction.lean:1390]: Thanks, I missed this.

File: LF/Induction.lean [hunk 4]
```diff
@@ -176,18 +156,24 @@ theorem review2 : ∀ b : Bool, (true || b) = true := by
 What if we change the order of the arguments of `||`?
 
 ```display
-    theorem review3 : ∀ b, (b || true) = true
+theorem review₃ b : (b || true) = true
```
Comment (chenson2018) [inline LF/Induction.lean]:
```suggestion
theorem review₃ (b : Bool) : (b || true) = true
```

File: LF/Induction.lean [hunk 5]
```diff
@@ -1334,46 +1299,18 @@ def natToBin (n : Nat) : Bin := solution!(
...
-It should be a `:::dev` note or deleted. NB it also documents the intended
-behaviour of the `-- SOLUTION`/`-- END SOLUTION` idiom that is currently
-mis-rendering elsewhere in this chapter.
-:::
-From GitHub:
-CH: David set it up so that if you put:
+```lean
 -- SOLUTION
+theorem natToBin_zero : natToBin zero = .z := by rfl
+theorem natToBin_succ m : natToBin (succ m) = incr (natToBin m) := by rfl
```
Comment (chenson2018) [inline LF/Induction.lean]:
```suggestion
theorem natToBin_succ (m : Nat) : natToBin (succ m) = incr (natToBin m) := by rfl
```

File: LF/Induction.lean [hunk 6]
```diff
@@ -1394,27 +1331,22 @@ theorem nat_bin_nat (n : Nat) :
...
+The opposite direction — starting with a {name}`Bin`, converting to {name}`Nat`,
+then converting back to {name}`Bin` — turns out to be problematic. That
+is, the following "theorem" does not hold.
 
-```lean
-/-- warning: declaration uses `sorry` -/
-#guard_msgs in
-example : ∀ b, natToBin (binToNat b) = b := by sorry
+```lean +error
+example b : natToBin (binToNat b) = b := by
```
Comment (chenson2018) [inline LF/Induction.lean]:
```suggestion
example (b : Bin) : natToBin (binToNat b) = b := by
```

File: LF/Induction.lean [hunk 7]
```diff
@@ -1437,29 +1369,26 @@ def doubleBin (b : Bin) : Bin := solution!(
...
 
 ```lean
-theorem doubleBin_z : doubleBin .z = .z := solution!(by rfl)
-theorem doubleBin_b0 m : doubleBin (.b0 m) = .b0 (.b0 m) := solution!(by rfl)
-theorem doubleBin_b1 m : doubleBin (.b1 m) = .b0 (.b1 m) := solution!(by rfl)
-
+-- SOLUTION
+theorem doubleBin_z : doubleBin .z = .z := by rfl
+theorem doubleBin_b0 m : doubleBin (.b0 m) = .b0 (.b0 m) := by rfl
+theorem doubleBin_b1 m : doubleBin (.b1 m) = .b0 (.b1 m) := by rfl
```
Comment (chenson2018) [inline LF/Induction.lean]:
```suggestion
theorem doubleBin_b0 (m : Bin) : doubleBin (.b0 m) = .b0 (.b0 m) := by rfl
theorem doubleBin_b1 (m : Bin) : doubleBin (.b1 m) = .b0 (.b1 m) := by rfl
```

File: LF/Induction.lean [hunk 8]
```diff
@@ -1477,45 +1406,41 @@ theorem double_incr_bin (b : Bin) :
 
 Let's return to our desired theorem:
 
-```lean
-/-- warning: declaration uses `sorry` -/
-#guard_msgs in
-example b : natToBin (binToNat b) = b := by sorry
+```lean +error
+example b : natToBin (binToNat b) = b := by
```
Comment (chenson2018) [inline LF/Induction.lean]:
```suggestion
example (b : Bin) : natToBin (binToNat b) = b := by
```

File: LF/Induction.lean [hunk 9]
```diff
@@ -1529,21 +1454,18 @@ def normalize (b : Bin) : Bin := solution!(
...
 
 ```lean
-theorem normalize_z : normalize .z = .z := solution!(by rfl)
-theorem normalize_b0 m : normalize (.b0 m) = doubleBin (normalize m) := solution!(by rfl)
-theorem normalize_b1 m : normalize (.b1 m) = incr (doubleBin (normalize m)) := solution!(by rfl)
-
+-- SOLUTION
+theorem normalize_z : normalize .z = .z := by rfl
+theorem normalize_b0 m : normalize (.b0 m) = doubleBin (normalize m) := by rfl
+theorem normalize_b1 m : normalize (.b1 m) = incr (doubleBin (normalize m)) := by rfl
```
Comment (chenson2018) [inline LF/Induction.lean]:
```suggestion
theorem normalize_b0 (m : Bin) : normalize (.b0 m) = doubleBin (normalize m) := by rfl
theorem normalize_b1 (m : Bin) : normalize (.b1 m) = incr (doubleBin (normalize m)) := by rfl
```

**Review by chenson2018 — COMMENTED** [review]
LGTM, minus a few (existing) places that are missing typing annotations:

File: LF/Induction.lean
Comment (KihongHeo) [inline LF/Induction.lean:102]: The transition to opening this namespace feels a bit abrupt. Can we add one sentence about the meaning of opening this namespace? It may be pedagogically good for reminding modular programming.

File: LF/Induction.lean [hunk 10]
```diff
@@ -136,17 +103,25 @@ namespace NatPlayground.Nat
...
+
+(B) {tactic}`rewrite`
+
+(C) {tactic}`cases`
+
+(D) both {tactic}`rewrite` and {tactic}`cases`
+
+(E) can't be done with the tactics we've seen.
 
 ```display
```
Comment (KihongHeo) [inline LF/Induction.lean:128]: How about using `lean +error` for better syntax highlighting? (Similarly, for many display blocks in this file?)

Comment (dsainati1) [reply LF/Induction.lean:128]: This will render a red underline for the theorem statement, which is also unfortunate. I think we need another kind of display option here that has syntax highlighting but not typechecking.

Comment (dsainati1) [reply LF/Induction.lean:128]: Made a thread about this in [#lean-software-foundations-contributors > Syntax Highlighting without Typechecking](https://leanprover.zulipchat.com/#narrow/channel/607217-lean-software-foundations-contributors/topic/Syntax.20Highlighting.20without.20Typechecking/with/612971551)

Comment (berberman) [reply LF/Induction.lean:128]: Maybe it's possible to get some basic syntax highlighting without full elaboration with some hacks. But for this quiz question, can we do:

````lean
```lean -keep
theorem review₁ : (true || false) = true := sorry
```
````

Comment (dsainati1) [reply LF/Induction.lean:128]: This makes the generated Lean file (the medium through which students doing homeworks will interact with the chapter) pretty confusing to read, because then we set up quiz questions that we don't ask.

Comment (berberman) [reply LF/Induction.lean:128]: I see. To hide it from generated projects you could wrap the lean code block in `:::ignore` directive, but I agree this would be confusing. Actually the quizzes aren't shown well in generated projects, like they clutter with normal text and there's no delimiter between the question and answer key...

**Review by bcpierce00 — APPROVED** [review]
Looks great!!

File: LF/Induction.lean [hunk 11]
```diff
@@ -681,7 +644,59 @@ theorem even_succ (n : Nat) :
 
 ::::::
 
+:::dev "Benjamin Pierce (bcpierce00)"
+Should the following comment really be hidden?  We can postpone it for after the
+initial release, but it should be discussed at some point after that...
+:::
```
Comment (berberman) [inline LF/Induction.lean]: Let's make it visible to avoid this meta comment...
